US07601844B2
N-(1-(4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl)-4-methyl-1-oxopentan-2-yl)benzamide
Example 215 was prepared in a similar manner as described for the preparation of Example 208 with the exceptions that benzoyl-DL-leucine and 4-(4-chlorophenyl)-4-hydroxypiperidine were substituted for benzoyl-DL-valine and 4-(4-chlorophenyl)piperidine hydrochloride, respectively. MS found: (M+H)+=430.

reactant | benzoyl-DL-leucine | C(C1=CC=CC=C1)(=O)NC(CC(C)C)C(=O)O | C13H17NO3
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | benzoyl-DL-valine | C(C1=CC=CC=C1)(=O)NC(C(C)C)C(=O)O | C12H15NO3
reactant | 4-(4-chlorophenyl)piperidine hydrochloride | Cl.ClC1=CC=C(C=C1)C1CCNCC1
product | N-(1-(4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl)-4-methyl-1-oxopentan-2-yl)benzamide | ClC1=CC=C(C=C1)C1(CCN(CC1)C(C(CC(C)C)NC(C1=CC=CC=C1)=O)=O)O | C24H29ClN2O3
